US05521311
To 7 ml of a dioxane solution containing 1.4 g of N-(5-chloroacetylamino-4-nitro-2-phenoxyphenyl)methanesulfonamide was added 0.77 g of n-butylamine at room temperature, followed by stirring for an hour. Water was added to the reaction solution, the precipitate was collected by filtration and recrystallized from ethanol to give 1.1 g of N-[5-(n-butylaminoacetylamino)4-nitro-2-phenoxyphenyl]methanesulfonamide as yellow needles.

reactant | dioxane | 7 ml | O1CCOCC1 | C4H8O2
reactant | N-(5-chloroacetylamino-4-nitro-2-phenoxyphenyl)methanesulfonamide | 1.4 g | ClCC(=O)NC=1C(=CC(=C(C1)NS(=O)(=O)C)OC1=CC=CC=C1)[N+](=O)[O-] | C15H14ClN3O6S
reactant | n-butylamine | 0.77 g | C(CCC)N | C4H11N
solvent | Water | O | H2O
product | N-[5-(n-butylaminoacetylamino)4-nitro-2-phenoxyphenyl]methanesulfonamide | 1.1 g | C(CCC)NCC(=O)NC=1C(=CC(=C(C1)NS(=O)(=O)C)OC1=CC=CC=C1)[N+](=O)[O-] | C19H24N4O6S
